// Library name: vaEvas
// Cell name:    tb_xor_phase_detector
// View name:    schematic
simulator lang=spectre
global 0

// Power
Vvdd (vdd 0) vsource dc=0.9 type=dc
Vvss (vss 0) vsource dc=0.0 type=dc

// REF: 50MHz clock
Vref (ref 0) vsource type=pulse val0=0 val1=0.9 period=20n width=10n rise=100p fall=100p

// DIV: 50MHz clock with 2.5ns (90-degree) phase shift -> XOR output should have ~50% duty cycle
Vdiv (div 0) vsource type=pulse val0=0 val1=0.9 period=20n delay=2.5n width=10n rise=100p fall=100p

// DUT (port order: VDD VSS REF DIV PD_OUT)
IDUT (vdd vss ref div pd_out) xor_phase_detector vth=0.45 tedge=50p

simulatorOptions options reltol=1e-4 vabstol=1e-6 iabstol=1e-12 temp=27 tnom=27 gmin=1e-12

tran tran stop=200n maxstep=100p errpreset=conservative

save ref div pd_out

ahdl_include "./xor_phase_detector.va"
